US06114526
4-[2-[2,4-Dimethyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde
The title compound (0.8 g, 30%) was prepared from 2,4-dimethyl-1,6-dihydro-6-pyrimidone (1.3 g, 10.48 mmol) and 4-[2-bromoethoxy]benzaldehyde (2,4 g, 10.48 mmol) in the presence of a base K2CO3 (2.89 g, 20.96 mmol) by a similar procedure as described in preparation 1.

reactant | 2,4-dimethyl-1,6-dihydro-6-pyrimidone | 10.48 mmol, 1.3 g | CC=1NC(C=C(N1)C)=O | C6H8N2O
reactant | 4-[2-bromoethoxy]benzaldehyde | 10.48 mmol, 2,4 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | K2CO3 | 20.96 mmol, 2.89 g | C(=O)([O-])[O-].[K+].[K+]
product | 4-[2-[2,4-Dimethyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde | 0.8 g, 30% | CC=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=O)C=C1 | C15H16N2O3
